US05247042
C. Synthesis of 1-(N-hydroxyhexyl-1,2,3,4-tetrahydroquinolin-6-yl)-4-(4-benzoxazol-ylphenyl)-1,3-butadiene (compound C)
To a stirred mixture of 110 g (0.2 mole) of 4-(benzoxazol-2-yl)tolyltriphenylphosphonium bromide in toluene is added dropwise 0.2 mole of n-BuLi at room temperature. After 2 hours a solution of 28.7 g (0.1 mole) of 3-(N-hydroxyhexyl-1,2,3,4-tetrahydroquinolin-6-yl)acrolein in toluene is added dropwise to the mixture, and the reaction is stirred for 18 hours at room temperature. Water is added, and the solids are isolated by vacuum filtration, washed with 60% ethanol/water, and dried under vacuum. The product is purified by recrystallization from benzene.

reactant | 4-(benzoxazol-2-yl)tolyltriphenylphosphonium bromide | 0.2 mole, 110 g | [Br-].O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | n-BuLi | 0.2 mole | [Li]CCCC
reactant | 3-(N-hydroxyhexyl-1,2,3,4-tetrahydroquinolin-6-yl)acrolein | 0.1 mole, 28.7 g | OCCCCCCN1CCCC2=CC(=CC=C12)C=CC=O | C18H25NO2
reactant | Water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-hydroxyhexyl-1,2,3,4-tetrahydroquinolin-6-yl)-4-(4-benzoxazol-ylphenyl)-1,3-butadiene | OCCCCCCN1CCCC2=CC(=CC=C12)C=CC=CC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C32H34N2O2
